US04851586
Preparation 8: 2-(3-Formylpropyl)-4-methoxy-1-[(tetrahydro-2H-pyran-2-yl)oxy]naphthalene (Refer to Chart E, E-4 to E-5)
A solution of 76 mg of 2-(3-formylpropyl)-4-methoxy-1-hydroxynaphthalene in 2 ml methylene chloride is treated with 0.5 ml of dihydropyran and then with a few mg of pyridinium hydrochloride. The resulting solution is stirred at room temperature for 24 hrs at which time TLC analysis indicates no remaining starting material. The solution is poured into 20 ml of saturated aqueous sodium bicarbonate and extracted two times with ether. The combined organic extracts are washed with water (pH adjusted to 7 with 10% aqueous sodium bisulfate), dried with magnesium sulfate, filtered and concentrated to give 173 mg of crude product.

reactant | 2-(3-formylpropyl)-4-methoxy-1-hydroxynaphthalene | 76 mg | C(=O)CCCC1=C(C2=CC=CC=C2C(=C1)OC)O | C15H16O3
reactant | dihydropyran | 0.5 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium hydrochloride | Cl.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Formylpropyl)-4-methoxy-1-[(tetrahydro-2H-pyran-2-yl)oxy]naphthalene | 173 mg | C(=O)CCCC1=C(C2=CC=CC=C2C(=C1)OC)OC1OCCCC1 | C20H24O4
